US08105689B2
By the same procedure as described in example 1, diethyl 4-(amino)benzylphosphonate (1.94 g; 8 mmoles), triethylamine (0.87 g; 8.6 mmoles), and methacryloyl chloride (0.9 g; 8.6 mmoles) in toluene (9 ml) afford diethyl 4-(methacrylamido)benzylphosphonate as a slight yellow solid (2.3 g; yield 92%).

reactant | diethyl 4-(amino)benzylphosphonate | 8 mmoles, 1.94 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | triethylamine | 8.6 mmoles, 0.87 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 8.6 mmoles, 0.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl 4-(methacrylamido)benzylphosphonate | yield 92% | C(C(=C)C)(=O)NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C15H22NO4P
